US08012976B2
To 4-(3-oxo-9-phenyl-3,7,8,9-tetrahydro-2H-pyrido[4,3,2-de]phthalazin-8-yl)benzaldehyde (59 mg, 0.16 mmol) was added methanamine (20 ml) and the mixture was stirred at room temperature for 2 h. Then 30 mg of sodium borohydride was added and stirred for another 2 h. The resulting mixture was evaporated under reduced pressure and purified by prep-HPLC. 11.5 mg of 8-(4-((methylamino)methyl)phenyl)-9-phenyl-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one was obtained (yield: 19%). 1H-NMR (400 MHz, CD3OD) δ: 2.66 (s, 3H), 4.33-4.35 (d, J=8 Hz, 1H), 4.83-4.85 (d, J=7.6 Hz, 1H), 7.10-7.12 (m, 2H), 7.15-7.22 (m, 4H), 7.34-7.42 (m, 4H), 7.55-7.57 (m, 1H), 7.63-7.67 (m, 1H). LC-MS (ESI) m/z: 383 (M+1)+.

reactant | 4-(3-oxo-9-phenyl-3,7,8,9-tetrahydro-2H-pyrido[4,3,2-de]phthalazin-8-yl)benzaldehyde | 0.16 mmol, 59 mg | O=C1NN=C2C=3C(=CC=CC13)NC(C2C2=CC=CC=C2)C2=CC=C(C=O)C=C2 | C23H17N3O2
reactant | sodium borohydride | 30 mg | [BH4-].[Na+]
reactant | methanamine | 20 ml | CN | CH5N
product | 8-(4-((methylamino)methyl)phenyl)-9-phenyl-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 11.5 mg, yield: 19% | CNCC1=CC=C(C=C1)C1C(C2=NNC(C=3C=CC=C(C23)N1)=O)C1=CC=CC=C1 | C24H22N4O
